US06331538B1
2-(2-Fluoro-anilino)-4,5-difluoro-benzoic Acid
Using General Method 1, the reaction of 2.5 M solution of n-BuLi in hexanes (21 mL, 53 mmol), diisopropylamine (7.2 mL, 51 mmol), 2-fluoro-aniline (1.6 mL, 17 mmol), and 2,4,5-trifluorobenzoic acid (3.0 g, 17 mmol) provided 4.08 g of the crude title compound.

reactant | n-BuLi | [Li]CCCC
reactant | diisopropylamine | 51 mmol, 7.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-fluoro-aniline | 17 mmol, 1.6 mL | FC1=C(N)C=CC=C1 | C6H6FN
reactant | 2,4,5-trifluorobenzoic acid | 17 mmol, 3.0 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
product | 2-(2-Fluoro-anilino)-4,5-difluoro-benzoic Acid | 4.08 g | FC1=C(NC2=C(C(=O)O)C=C(C(=C2)F)F)C=CC=C1 | C13H8F3NO2
